US05221742
Step a: Methyl 4-(3,4-dihydro-4-methyl-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyrate
The following compounds were made by the above procedure, using the appropriate starting materials: methyl 4-(3,4-dihydro-2,4-dimethyl-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyrate (oil); and methyl 4-(3,4-dihydro-2,2,4-trimethyl-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyrate (oil).

reactant | methyl 4-(3,4-dihydro-2,4-dimethyl-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyrate | CC1OC2=C(N(C1=O)C)C=CC(=C2)C(C(CC(=O)OC)C)=O | C16H19NO5
reactant | methyl 4-(3,4-dihydro-2,2,4-trimethyl-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyrate | CC1(OC2=C(N(C1=O)C)C=CC(=C2)C(C(CC(=O)OC)C)=O)C | C17H21NO5
product | Methyl 4-(3,4-dihydro-4-methyl-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyrate | CN1C(COC2=C1C=CC(=C2)C(C(CC(=O)OC)C)=O)=O | C15H17NO5
